US07863291B2
To 6-isothiocyanato-2,4-dimethylnicotinonitrile (0.09 g, 0.48 mmol) in N,N-dimethylformamide (20 mL) was added triethylamine (0.17 mL, 1.19 mmol) and 3-(aminomethyl)quinuclidin-3-ol dihydrochloride (0.11 g, 0.49 mmol) at room temperature. The reaction was stirred at 70° C. for 2 hours. The reaction was cooled to room temperature and concentrated in vacuo. The crude urea was purified by chromatography (Biotage: 85% CHCl3, 14% MeOH, 1% NH4OH). The product was then treated with N,N-dimethylformamide (20 mL) and N,N′-diisopropylcarbodiimide (0.22 mL, 1.43 mmol). The reaction was heated to 70° C. for 2 hours. The reaction was cooled to room temperature and concentrated in vacuo to yield the crude product. The crude product was purified by chromatography (Biotage: 85% CHCl3, 14% MeOH, 1% NH4OH) to yield (R)-6-(4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octane]-2-ylamino)-2,4-dimethylnicotinonitrile (0.10 g, 0.32 mmol, 66% yield) as a white powder. 1H NMR (500 MHz, DMSO-D6) δ ppm 9.08 (s, 1 H), 6.60 (s, 1 H), 3.88 (d, J=10.38 Hz, 1 H), 3.61 (d, J=10.38 Hz, 1 H), 2.98 (s, 2 H), 2.70-2.79 (m, 2 H), 2.63-2.69 (m, 2 H), 2.55-2.60 (m, 4 H), 2.31-2.39 (m, 4 H), 1.99 (s, 1 H), 1.89 (s, 1 H), 1.54-1.62 (m, 2 H), 1.41-1.49 (m, 1 H). MS (LC/MS) R.T.=0.78; [M+H]+=312.1.

reactant | 6-isothiocyanato-2,4-dimethylnicotinonitrile | 0.48 mmol, 0.09 g | N(=C=S)C1=NC(=C(C#N)C(=C1)C)C | C9H7N3S
reactant | triethylamine | 1.19 mmol, 0.17 mL | C(C)N(CC)CC | C6H15N
reactant | 3-(aminomethyl)quinuclidin-3-ol dihydrochloride | 0.49 mmol, 0.11 g | Cl.Cl.NCC1(CN2CCC1CC2)O
reactant | N,N′-diisopropylcarbodiimide | 1.43 mmol, 0.22 mL | C(C)(C)N=C=NC(C)C | C7H14N2
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | (R)-6-(4H-1′-azaspiro[oxazole-5,3′-bicyclo[2.2.2]octane]-2-ylamino)-2,4-dimethylnicotinonitrile | 0.32 mmol, 0.10 g, 66% yield | N12C[C@]3(C(CC1)CC2)CN=C(O3)NC3=NC(=C(C#N)C(=C3)C)C | C17H21N5O
